US04282242
N-chlorosuccinimide (5.34 g., 40 mmoles) was slurried in 50 ml. of benzene and cooled in an ice-water bath. o-Toluenethiol (4.96 g., 40 mmoles) in 50 ml. of benzene was added dropwise over 15 minutes. The reaction was warmed to room temperature and stirred for approximately 16 hours. The reaction mixture was filtered and o-toluenesulfenyl chloride (5.53 g.) obtained as an oil by evaporation in vacuo.

reactant | N-chlorosuccinimide | 40 mmoles, 5.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | o-Toluenethiol | 40 mmoles, 4.96 g | C=1(C(=CC=CC1)S)C | C7H8S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-toluenesulfenyl chloride | 5.53 g | C=1(C(=CC=CC1)SCl)C | C7H7ClS
